US06492394B1
To a solution of 2(R)-(4-methoxybenzenesulfonylamino)-3-methylbutyric acid (40 g, 139.2 mmol) and cesium carbonate (85.7 g, 444 mmol) in dimethylformamide was added benzyl bromide (16.1 g, 135 mmol). The reaction mixture was stirred overnight. The dimethylformamide was removed on the rotoevaporator and the residue was dissolved in ethyl acetate (200 ml) and partitioned with an equal volume of water. The organic phase was collected and washed with an equal volume of brine. The aqueous phases were back extracted with ethyl acetate (2×150 ml), combined and dried over magnesium sulfate and condensed to provide 2(R)-(4-methoxybenzenesulfonylamino)-3-methylbutyric acid benzyl ester (42.6 g) as a white crystalline solid.

reactant | 2(R)-(4-methoxybenzenesulfonylamino)-3-methylbutyric acid | 139.2 mmol, 40 g | COC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)O)C(C)C | C12H17NO5S
reactant | cesium carbonate | 444 mmol, 85.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 135 mmol, 16.1 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2(R)-(4-methoxybenzenesulfonylamino)-3-methylbutyric acid benzyl ester | 42.6 g | C(C1=CC=CC=C1)OC([C@@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)OC)=O | C19H23NO5S
